US06391874B1
4-Hydroxy quinazoline-7-hydrazide
(4-Hydroxy-quinazolin-7-yl)-carboxylic acid (0.5 g) in dry THF (20 ml) was treated with carbonyl diimidazole (0.85 g) under nitrogen for 6 hours at room temperature. Hydrazine hydrate was added and stirring was continued for 18 hours. The mixture was filtered to give the title compound (0.41 g); m/z (M+1+) 205.

reactant | (4-Hydroxy-quinazolin-7-yl)-carboxylic acid | 0.5 g | OC1=NC=NC2=CC(=CC=C12)C(=O)O | C9H6N2O3
reactant | carbonyl diimidazole | 0.85 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | Hydrazine hydrate | O.NN
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-Hydroxy quinazoline-7-hydrazide | 0.41 g | OC1=NC=NC2=CC(=CC=C12)C(=O)NN | C9H8N4O2
